US05912251
Benzylic bromination of 5-methyl-2-nitrobenzonitrile by NBS by the standard procedure followed by treatment of the resultant product (3b) with triphenylphosphine gave 3-cyano-4-nitrobenzyltriphenylphosphonium bromide in good yield.

reactant | 5-methyl-2-nitrobenzonitrile | CC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C8H6N2O2
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-cyano-4-nitrobenzyltriphenylphosphonium bromide | [Br-].C(#N)C=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1[N+](=O)[O-] | InChI=1S/C26H20N2O2P.BrH/c27-19-22-18-21(16-17-26(22)28(29)30)20-31(23-10-4-1-5-11-23,24-12-6-2-7-13-24)25-14-8-3-9-15-25;/h1-18H,20H2;1H/q+1;/p-1
